US04512924
0.896 g of 2-amino-hexahydro-3-oxo-1H-pyrazolo[1,2-a]pyridazine-5-carboxylic acid (racemate A) was dissolved in 6 ml of water. 2.4 g of 2-oxo-4-phenylbutyric acid were added and the mixture was adjusted to pH 6 with 2N aqueous sodium hydroxide solution. 0.504 g of sodium cyanoborohydride was then added and the mixture was stirred at room temperature for 22 hours. The resulting solution was applied to 10 g of Zerolit 225 ion-exchange resin (H+ form). Elution with water containing 2% pyridine gave 0.98 g of a crude diastereomeric product. Crystallization from water gave a solid which was recrystallized from methanol to yield 0.36 g (22%) of 2-(1-carboxy-3-phenylpropylamino)-hexahydro-3-oxo-1H-pyrazolo[1,2-a]pyridazine-5-carboxylic acid (racemate A) in the form of a white solid of melting point 233°-235° C. (decomposition).

reactant | 2-amino-hexahydro-3-oxo-1H-pyrazolo[1,2-a]pyridazine-5-carboxylic acid | 0.896 g | NC1C(N2N(CCCC2C(=O)O)C1)=O | C8H13N3O3
reactant | 2-oxo-4-phenylbutyric acid | 2.4 g | O=C(C(=O)O)CCC1=CC=CC=C1 | C10H10O3
reactant | sodium hydroxide | 2N | [OH-].[Na+]
reactant | sodium cyanoborohydride | 0.504 g | C(#N)[BH3-].[Na+]
solvent | water | 6 ml | O | H2O
product | 2-(1-carboxy-3-phenylpropylamino)-hexahydro-3-oxo-1H-pyrazolo[1,2-a]pyridazine-5-carboxylic acid | 0.36 g, 22% | C(=O)(O)C(CCC1=CC=CC=C1)NC1C(N2N(CCCC2C(=O)O)C1)=O | C18H23N3O5
